US08580841B2
Step E: Preparation of Ethyl 2-(7-(4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
To a solution of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (0.069 g, 0.264 mmol) in DMF (1 mL) was added Cs2CO3 (0.086 g, 0.264 mmol) followed by 4-(chloromethyl)-1-(cyclopropylmethoxy)-2-(trifluoromethyl)benzene (0.070 g, 0.264 mmol). The reaction mixture was stirred for 16 h and filtered. The filtrate was concentrated under vacuum and purified by silica gel column chromatography to give the title compound as a light yellow oil (0.023 g). LCMS m/z=488.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 0.35-0.44 (m, 2H), 0.58-0.67 (m, 2H), 1.24-1.34 (m, 4H), 2.04-2.16 (m, 1H), 2.51 (dd, J=16.74, 11.05 Hz, 1H), 2.68-2.90 (m, 4H), 3.49-3.61 (m, 1H), 3.94 (d, J=6.44 Hz, 2H), 4.15-4.27 (m, 2H), 5.03 (s, 2H), 6.82 (dd, J=8.72, 2.40 Hz, 1H), 6.93-7.02 (m, 2H), 7.20 (d, J=8.84 Hz, 1H), 7.56 (dd, J=8.53, 1.96 Hz, 1H), 7.67 (d, J=1.89 Hz, 1H), 8.45 (bs, 1H).

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.264 mmol, 0.069 g | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | Cs2CO3 | 0.264 mmol, 0.086 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(chloromethyl)-1-(cyclopropylmethoxy)-2-(trifluoromethyl)benzene | 0.264 mmol, 0.070 g | ClCC1=CC(=C(C=C1)OCC1CC1)C(F)(F)F | C12H12ClF3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.023 g | C1(CC1)COC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C27H28F3NO4
